US06403521B1
A mixture of 3 mmol of ethyl acrylate, 3 ml of 2-propanol, 0.6 mmol of 6-trifluoromethyl-l-hydroxybenzotriazole, 0.003 mmol of cobalt(II) acetate, 0.015 mmol of acetylacetonatocobalt(III), and 1 ml of acetonitrile was stirred at 60° C. in an oxygen atmosphere (1 atm) for 12 hours. A gas chromatographic analysis of products in a reaction mixture found that ethyl 2,4-dihydroxy-4-methylpentanoate and (α-hydroxy-γ,γ-dimethyl-γ-butyrolactone were formed in yields of 2% and 28%, respectively, with a conversion rate from ethyl acrylate of 62%.

reactant | ethyl acrylate | 3 mmol | C(C=C)(=O)OCC | C5H8O2
reactant | 6-trifluoromethyl-l-hydroxybenzotriazole | 0.6 mmol | FC(C=1C=CC2=C(N(N=N2)O)C1)(F)F | C7H4F3N3O
reactant | oxygen | O=O | O2
reactant | ethyl 2,4-dihydroxy-4-methylpentanoate | OC(C(=O)OCC)CC(C)(C)O | C8H16O4
catalyst | cobalt(II) acetate | 0.003 mmol | C(C)(=O)[O-].[Co+2].C(C)(=O)[O-]
solvent | acetonitrile | 1 ml | C(C)#N | C2H3N
solvent | 2-propanol | 3 ml | CC(C)O | C3H8O
product | α-hydroxy-γ,γ-dimethyl-γ-butyrolactone | OC1C(=O)OC(C1)(C)C | C6H10O3
